US06090843
[6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-Carboxymethoxyphenyl]methanone
To [6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl][4-carbomethoxymethoxyphenyl]methanone (132 mg, 0.30 mmol) stirring in methanol (5 mL) was added sodium hydroxide (0.43 mL of a 5 N aqueous solution, 2.13 mmol). The red mixture was heated to reflux for 0.5 hour, cooled to room temperature, and made acidic with hydrochloric acid (0.70 mL of a 5N aqueous solution). The mixture was then poured into brine and extracted with ethyl acetate. The combined organic extracts were washed thoroughly with brine, dried (magnesium sulfate), and filtered. Concentration afforded the title compound as a yellow solid.

reactant | [6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl][4-carbomethoxymethoxyphenyl]methanone | 0.30 mmol, 132 mg | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC(=O)OC)C2=CC=C(C=C2)O)C1 | C24H18O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | [6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-Carboxymethoxyphenyl]methanone | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC(=O)O)C2=CC=C(C=C2)O)C1 | C23H16O6S
